US08058313B2
bis((E)-2,6-Dimethoxystyrylsulfonyl)methane
A solution of 2,6-dimethoxybenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 74% yield. m.p. 118-120° C.

reactant | 2,6-dimethoxybenzaldehyde | 2 mmol | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-2,6-Dimethoxystyrylsulfonyl)methane | 74% yield | COC1=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=C(C=CC=C2OC)OC)C(=CC=C1)OC | C21H24O8S2
